US07399759B2
6-(Pyrazol-1-yl)-2-pyridinecarbonitrile
6-Chloro-2-pyridinecarbonitrile (1.0 g, 7.2 mmol) and pyrazole (2.4 g, 35.9 mmol) were dissolved in DMF (10 ml), and potassium carbonate (3.0 g, 21.7 mmol) was added thereto. The mixture was stirred at 100° C. for 18 hrs. The reaction mixture was combined with ethyl acetate and water, the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with hexane-ethyl acetate (3:1, v/v) were collected, concentrated and recrystallized from hexane-ethyl acetate to give the titled compound (0.98 g, 80%).

reactant | 6-Chloro-2-pyridinecarbonitrile | 7.2 mmol, 1.0 g | ClC1=CC=CC(=N1)C#N | C6H3ClN2
reactant | pyrazole | 35.9 mmol, 2.4 g | N1N=CC=C1 | C3H4N2
reactant | potassium carbonate | 21.7 mmol, 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-(Pyrazol-1-yl)-2-pyridinecarbonitrile | 0.98 g, 80% | N1(N=CC=C1)C1=CC=CC(=N1)C#N | C9H6N4
